US05691315
(1) Preparation of Boc-Leu-DTrp-βAla-OEt
To a solution of Boc-Leu-DTrp-NHNH2 (39 mg) obtained in Example 1-(2) in DMF (0.5 ml) was added 3.1M HCl/1,4-dioxane (81 μl ) at -60° C. The temperature of the solution was raised to -20° C. and isoamyl nitrite (15 μl ) was added. The reaction mixture was stirred at -20° C. to -15° C. for 1.5 h and cooled at -60 ° C. A solution of βAla-OEt·HCI (17 mg) in DMF (0.5 ml) and TEA (50 μl ) were added. The reaction mixture was stirred at 5° C. overnight and concentrated under reduced pressure. The residue was partitioned between water and dichloromethane. The organic layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by preparative TLC (Merck, Kieselgel 60 F254) with chloroform/methanol=30/1 for development to give the product (41 mg).

reactant | Boc-Leu-DTrp-NHNH2 | 39 mg | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)NN)C(=O)OC(C)(C)C | C22H33N5O4
reactant | HCl 1,4-dioxane | 3.1M, 81 μl | Cl.O1CCOCC1
reactant | isoamyl nitrite | 15 μl | N(=O)OCCC(C)C | C5H11NO2
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | Boc-Leu-DTrp-βAla-OEt | 41 mg | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)NCCC(=O)OCC)C(=O)OC(C)(C)C | C27H40N4O6
